US07897609B2
A suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.2 g, 3.0 mmol), 3-(hydroxymethyl)benzeneboronic acid (0.555 g, 3.65 mmol), potassium carbonate (1.4 g, 10.0 mmol), dichlorobis(triphenylphosphine)palladium(II)(0.021 g, 0.030 mmol), DME (13 mL), and water (7 mL) was stirred under a nitrogen atmosphere in a pressure vessel. The vessel was then sealed and heated at 110° C. for 16.5 hours and allowed to cool to room temperature. The volatiles were removed under reduced pressure. The residue was diluted with methanol, and silica gel was added. The mixture was concentrated under reduced pressure. The residue was purified by automated flash chromatography (FLASH 40+M silica cartridge, eluting with 5% to 20% methanol in ethyl acetate) followed by trituration with acetonitrile. The resulting solid was isolated by filtration, washed with acetonitrile, and dried in a vacuum oven at 65° C. to provide 449 mg of 1-{4-amino-2-(ethoxymethyl)-7-[3-(hydroxymethyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as a white solid, mp 186-187° C.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 3.0 mmol, 1.2 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | 3-(hydroxymethyl)benzeneboronic acid | 3.65 mmol, 0.555 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | potassium carbonate | 10.0 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 13 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.030 mmol, 0.021 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | 1-{4-amino-2-(ethoxymethyl)-7-[3-(hydroxymethyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 449 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C2=CC(=CC=C2)CO | C23H27N5O3
